US07579368B2
To a solution of 4-tert-butyloxycarbonyl-1-[2-(tert-butyldimethylsilyloxy)ethyl]-piperazin-2-one (0.88 g, 2.5 mmol) in tetrahydrofuran (30 mL) was added tetrabutylammonium fluoride (3.6 mL, 3.6 mmol, 1.0 M in tetrahydrofuran) and the reaction mixture was stirred at room temperature for 2 h. The reaction mixture was quenched with a dilute aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The organic extracts were washed with brine and dried over anhydrous sodium sulfate. Purification of the crude residue by flash column chromatography (silica gel, eluting with 30% ethyl acetate in hexanes) gave 4-tert-butyloxycarbonyl-1-(2-hydroxyethyl)-piperazin-2-one (0.45 g, 75%).

reactant | 4-tert-butyloxycarbonyl-1-[2-(tert-butyldimethylsilyloxy)ethyl]-piperazin-2-one | 2.5 mmol, 0.88 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)CCO[Si](C)(C)C(C)(C)C)=O | C17H34N2O4Si
reactant | tetrabutylammonium fluoride | 3.6 mmol, 1.0 M, 3.6 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-tert-butyloxycarbonyl-1-(2-hydroxyethyl)-piperazin-2-one | 0.45 g, 75% | C(C)(C)(C)OC(=O)N1CC(N(CC1)CCO)=O | C11H20N2O4
